US04851519
1.1 g of 2',5'-dideoxy-5-ethyl-5'-(N-methyl-N-benzylamino)uridine were taken up in 75 ml of ethanol and 1 g of 5% palladium-on-carbon catalyst in 25 ml of ethanol was added under a nitrogen atmosphere. The mixture was hydrogenated at room temperature and under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated to give 0.84 g of 2',5'-dideoxy-5-ethyl-5'-methylaminouridine of melting point 145°-147° C.

reactant | 2',5'-dideoxy-5-ethyl-5'-(N-methyl-N-benzylamino)uridine | 1.1 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CN(CC3=CC=CC=C3)C)O2)C1)=O)=O | C19H25N3O4
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2',5'-dideoxy-5-ethyl-5'-methylaminouridine | 0.84 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CNC)O2)C1)=O)=O | C12H19N3O4
